US08119692B2
(R)-4-(4-fluoro-3-methylphenyl)-N-hydroxy-4-methoxybutanamide (Compound 167223)
To the solution of 4R)-4-(4-fluoro-3-methylphenyl)-4-methoxy-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (66 mg, 0.2 mmol) in 4 mL DCM was slowly added 2 mL TFA and the resulting solution stirred for 30 min at 25° C. The solvent was evaporated and the product isolated by flash column chromatography eluting with 0% to 10% methanol/DCM gradient solvent to give 32 mg of the title compound as a white solid.

reactant | 4-(4-fluoro-3-methylphenyl)-4-methoxy-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.2 mmol, 66 mg | FC1=C(C=C(C=C1)C(CCC(=O)NOC1OCCCC1)OC)C | C17H24FNO4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(4-fluoro-3-methylphenyl)-N-hydroxy-4-methoxybutanamide | 32 mg | FC1=C(C=C(C=C1)[C@@H](CCC(=O)NO)OC)C | C12H16FNO3
